US08283353B2
4′-({5-oxo-7-propyl-4-[trans-4-(tetrahydrofuran-2-ylmethoxy)cyclohexyl]-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
4′-[(4-{trans-4-[(2,5-Dihydroxypentyl)oxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile (0.17 g) was dissolved in tetrahydrofuran (3 mL), triphenylphosphine (0.24 g) and then diethyl azodicarboxylate (0.40 g, 40% toluene solution) were added, and the mixture was stirred at room temperature for 18 hr. The reaction mixture was added to water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.12 g, 74%).

reactant | 4′-[(4-{trans-4-[(2,5-Dihydroxypentyl)oxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 0.17 g | OC(CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)CCCO | C33H39N5O4
reactant | triphenylphosphine | 0.24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.40 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | water | O | H2O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 4′-({5-oxo-7-propyl-4-[trans-4-(tetrahydrofuran-2-ylmethoxy)cyclohexyl]-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.12 g, 74% | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)[C@@H]2CC[C@H](CC2)OCC2OCCC2 | C33H37N5O3
